US09403758B2
To a solution of methyl 4-(bromoethynyl)benzoate (67 g, 280 mmol) in CH3OH/THF/H2O=5/5/1 (1100 mL) was added NaOH (44.84 g) and the reaction mixture was stirred at 25° C. for 3 hr. The volatiles were removed under reduced pressure and the resulting solution was neutralized with 1 N HCl to pH 3-5. Solids were collected by filtration, washed with water and dried at 50° C. for 5 hr to yield 4-(bromoethynyl)benzoic acid (INT-1) (61 g, 96%).

reactant | methyl 4-(bromoethynyl)benzoate | 280 mmol, 67 g | BrC#CC1=CC=C(C(=O)OC)C=C1 | C10H7BrO2
reactant | NaOH | 44.84 g | [OH-].[Na+]
solvent | CH3OH THF H2O | CO.C1CCOC1.O
product | 4-(bromoethynyl)benzoic acid | 61 g, 96% | BrC#CC1=CC=C(C(=O)O)C=C1 | C9H5BrO2
